US05455252
4-(4-Amino-3-bromobenzyl)pyridine (1.0 gm), 3-nitrobenzene boronic acid (0.63 gm), palladium tetrakis triphenylphosphine (0.47 gm), methanol (6.5 mL), 2.0M Na2CO3 (1.9 mL) and benzene (32 mL) are combined in a reaction flask that is wrapped in aluminum foil (to prevent exposure of the reagents to light). The reaction mixture is heated to reflux for 6 hours. The progress of the reaction is monitored by thin-layer chromatography (9:1 hexane:ethyl acetate). When the starting material is converted, the reaction mixture is allowed to cool and the solvents are removed. Ethyl acetate is added to the residue, the resultant solution is filtered through a pad of Na2SO4, and concentrated. The product is isolated by preparative thin-layer chromatography (9:1 hexane:ethyl acetate) yielding 983 mg of 4-[4-amino-3-(3-nitrophenyl)benzyl]pyridine as an orange oil.

reactant | 4-(4-Amino-3-bromobenzyl)pyridine | 1.0 gm | NC1=C(C=C(CC2=CC=NC=C2)C=C1)Br | C12H11BrN2
reactant | 3-nitrobenzene boronic acid | 0.63 gm | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
reactant | methanol | 6.5 mL | CO | CH4O
reactant | Na2CO3 | 2.0M, 1.9 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | aluminum | [Al] | Al
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
solvent | benzene | 32 mL | C1=CC=CC=C1 | C6H6
product | 4-[4-amino-3-(3-nitrophenyl)benzyl]pyridine | 983 mg | NC1=C(C=C(CC2=CC=NC=C2)C=C1)C1=CC(=CC=C1)[N+](=O)[O-] | C18H15N3O2
